US05942511
Synthesis of 3-phenyl-6-allylthiopyridazine
0.23 g(0.01 mol) of metallic sodium was dissolved in 30 ml of absolute methanol and then mixed with 0.93 ml(0.01 mol) of allylmercaptan. To this mixture was added 1.90 g(0.01 mol) of 6-chloro-3-phenylpyridazine. The reaction solution was refluxed for 5 hours and concentrated under reduced pressure to remove methanol. 100 ml of diethyl ethers was added to the residue and vigorously stirred for 10 minutes. The materials insoluble in diethyl ether was removed and the remaining solution was washed twice with 50 ml of purified water, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure to remove diethyl ether. In this manner, the title compound was obtained as a white crystal.

reactant | sodium | 0.01 mol, 0.23 g | [Na] | Na
reactant | allylmercaptan | 0.01 mol, 0.93 ml | C(C=C)S | C3H6S
reactant | 6-chloro-3-phenylpyridazine | 0.01 mol, 1.90 g | ClC1=CC=C(N=N1)C1=CC=CC=C1 | C10H7ClN2
solvent | methanol | 30 ml | CO | CH4O
product | 3-phenyl-6-allylthiopyridazine | C1(=CC=CC=C1)C=1N=NC(=CC1)SCC=C | C13H12N2S
